US08614220B2
Step 2. 2-Methyl-5-(4-methyl-piperazin-1-yl)-phenylamine
To a solution of 1-methyl-4-(4-methyl-3-nitro-phenyl)-piperazine (9.0 g, 38.29 mmol) in ethanol (100 mL) and cyclohexene (7 ml), Pd/C 10% (1.5 g) was added. The mixture was heated at 80° C. for 6 hours. The Pd was filtered from the reaction and the solvents were removed from the filtrate under reduced pressure. The crude was diluted with DCM and treated with HCl in dioxane; the precipitate was collected and washed with diethyl ether to give the final compound as a brown solid in quantitative yield.

reactant | 1-methyl-4-(4-methyl-3-nitro-phenyl)-piperazine | 38.29 mmol, 9.0 g | CN1CCN(CC1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C12H17N3O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | cyclohexene | 7 ml | C1=CCCCC1 | C6H10
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 2-Methyl-5-(4-methyl-piperazin-1-yl)-phenylamine | quantitative yield | CC1=C(C=C(C=C1)N1CCN(CC1)C)N | C12H19N3
